US08110581B2
Step 2. 1-tert-butyl 3-ethyl 3-(2-oxoethyl)piperidine-1,3-dicarboxylate
1-tert-Butyl 3-ethyl 3-(3-methylbut-2-en-1-yl)piperidine-1,3-dicarboxylate (2.75 g, 8.5 mmol) in CH2Cl2 (100 mL) was cooed to −78° C., and ozone was passed into the reaction mixture until a light blue color was observed (ca. 15 min). Nitrogen was then bubbled through the solution to remove the excess ozone. Dimethyl sulfide (10 mL) was added and the reaction was slowly warmed to room temperature and stirred overnight. The reaction was then washed with water and brine, dried and concentrated to give the product (2.5 g).

reactant | 1-tert-Butyl 3-ethyl 3-(3-methylbut-2-en-1-yl)piperidine-1,3-dicarboxylate | 8.5 mmol, 2.75 g | CC(=CCC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC)C | C18H31NO4
reactant | ozone | O=[O+][O-] | O3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-tert-butyl 3-ethyl 3-(2-oxoethyl)piperidine-1,3-dicarboxylate | 2.5 g | O=CCC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC | C15H25NO5
